US06872827B2
A well-stirred solution of Compound 7, where R1 is phenyl, R2A is benzyl, R3 is 3-methyl-indole-1-carboxylic acid tert-butyl ester and R4 is methyl, (0.1 g, 0.189 mmol) and ammonium formate (0.06 g 0.945 mmol) in 3 ml of MeOH in a capped vial was treated with 0.05 g of solid 10% palladium on charcoal. The mixture was heated at 60° C. for 1 h with stirring, filtered through celite bed and washed with MeOH. The crude product was further purified by filtration through a silica plug, washing with CH2Cl2/MeOH (20/1) to afford the 7-phenoxy-3,4-dihydro-2H-quinoline-4-spiro-5′-3′-(1H-indol-2-ylmethyl-1-carboxylic acid tert-butyl ester)-1′-methyl-imidazolidine-21, 4′-dione as a colorless oil in quantitative yields. 1H NMR (CDCl3) δ 8.13-8.02 (m, 2H); 7.76-7.64 (m, 2H); 7.35-6.90 (m, 9H); 6.63-6.60 (m, 1H); 6.17-6.12 (m, 2H); 4.81 (s, 2H); 4.18-3.91 (m, 2H); 3.77 (bs, 1H); 3.33-3.27 (m, 1H); 2.70 (s, 3H); 2.29-1.90 (m, 22H); 1.64 (s, 9H).

reactant | 3-methyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C | C14H17NO2
reactant | ammonium formate | 0.945 mmol, 0.06 g | C(=O)[O-].[NH4+]
solvent | MeOH | 3 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 7-phenoxy-3,4-dihydro-2H-quinoline | O(C1=CC=CC=C1)C1=CC=C2CCCNC2=C1 | C15H15NO
